US04476040
Formylation. 1-Hydroxy-4,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene (78 g, 0.358 mol) was stirred with glacial acetic acid (632 mL) and hexamethylenetetramine (93.6 g, 0.669 mol). The mixture was heated at 105°-110° C. for 10 h. Hot water (632 mL) was added and the heating was continued for an additional 2.5 h at 100° C. The mixture was cooled to 20° C., toluene (250 mL) was added, and the mixture was stirred vigorously. The organic layer was separated, washed with water (2×50 mL), then neutralized with 5% NaHCO3 solution, and finally washed with brine (50 mL). The solvent was removed by distillation and the residue distilled to yield 2-formyl-1-hydroxy-4,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene (45 g), bp 138°-146° C./1 mm, GLC purity 95%. 1H-NMR (CDCl3) δ11.63 (1H, s), 9.73 (1H, s), 7.09 (1H, s), 2.52 (3H, s), 1.66 (3H, s), 1.47 (6H, s), 1.42 (6H, s). 13C-NMR (CDCl3) δ196 (1C, d), 159 (1C, s), 155 (1C, s), 134.7 (1C, d), 134.1 (1C, s), 128 (1C, s), 118.1 (1C, s), 39.3 (1C, t), 37.8 (1C, t), 36.5 (1C, s), 35.2 (1C, s), 28.7 (2C, q), 27.9 (2C, q), 23.5 (1C, q). IR (KBr) 1637 cm- 1, MS (m/e) 246.2 (M+, 36.1), 231.2 (100.0), 161.2 (41.6), 189.1 (27.9).

reactant | 1-Hydroxy-4,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 0.358 mol, 78 g | OC1=CC=C(C=2C(CCC(C12)(C)C)(C)C)C | C15H22O
reactant | acetic acid | 632 mL | C(C)(=O)O | C2H4O2
reactant | hexamethylenetetramine | 0.669 mol, 93.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | 632 mL | O | H2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-formyl-1-hydroxy-4,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 45 g | C(=O)C1=C(C=2C(CCC(C2C(=C1)C)(C)C)(C)C)O | C16H22O2
